US04849544
A suitable autoclave was charged with 20.7 g (0.108 mol) of purified 1,3-diamino-4,6-diisopropylbenzene, 0.3 g (2.7 mmol) of potassium t-butoxide, 2.0 g of 5% Ru on alumina, and 100 mL of t-butanol. The autoclave was heated to 190° C. at 25.5 MPa hydrogen for 24 hours. It was then cooled and its contents filtered. The solvent was removed from the filtrate in vacuo and the resulting liquid distilled through a 20.3 cm Vigreaux column at about 4 mm Hg/115°-118° C. to give 5.9 g (28%) of 1,3-diamino-4,6-diisopropylcyclohexane.

reactant | 1,3-diamino-4,6-diisopropylbenzene | 0.108 mol, 20.7 g | NC1=CC(=C(C=C1C(C)C)C(C)C)N | C12H20N2
reactant | potassium t-butoxide | 2.7 mmol, 0.3 g | CC(C)([O-])C.[K+]
reactant | hydrogen | [H][H] | H2
catalyst | Ru on alumina | 2.0 g | [Ru] | Ru
solvent | t-butanol | 100 mL | C(C)(C)(C)O | C4H10O
product | 1,3-diamino-4,6-diisopropylcyclohexane | 5.9 g, 28% | NC1CC(C(CC1C(C)C)C(C)C)N | C12H26N2
